Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Penicillins
 
Attending: ___.
 
Chief Complaint:
nausea
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
HPI:  ___ yo F with PMH as noted, with several week history of
nausea, abd pain, and back pain.  Pt saw PCP; CT on ___ with
pneumobilia but no stones.  On repeat visit, liver enzymes
elevated -> to ___.  At ___, abd CT with 7mm CBD stone.  
Pt
received cefepime and transferred to ___ for consideration of
ERCP.  Pt seen in the ED, received metronidazole, and admitted
for further care.  Per the ERCP fellow, plan is for ERCP on ___.

Patient feels ok now except for low back pain.  She has no
nausea, abdominal pain, or diarrhea.  She has no dysuria or
hematuria.

She would like to eat but understands that she is NPO for ERCP
tomorrow.

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL: As per HPI
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
10 point review of systems negative except as noted above

 
Past Medical History:
Dementia 
Afib
Diastolic CHF
Hypothyroidism
Breast cancer s/p R mastectomy
Pulmonary HTN
Cholelithiasis/cholecystitis s/p ERCP with 
spinicterotomy/sphincteroplasty with stent placement and
subsequent removal in ___
Prior PE ___ years ago per patient)
Sqamous cell cancer
s/p cholecystectomy
s/p TAH
 
Social History:
___
Family History:
M - CAD/breast CA

 
Physical Exam:
ADMISSION
Physical Exam: 98.3  90  131/86  95% (2L NC)
GENERAL:  NAD
Mentation:  Alert, speaks in full sentences
Eyes:  NC/AT
Ears/Nose/Mouth/Throat:  MMM
Neck:  Supple
Resp:  CTA bilat
CV:  Irreg
GI:  Soft, NT/ND
Skin:  Bilateral lower extremities with chronic stasis changes. 
+ Eschar R pretibial area.  + heaped up lesion LLE pretibial 
area
Extremities:  Bilateral ___ edema
Lymph/Heme/Immun:  No cervical ___ noted
Neuro:  Alert & oriented x3

DISCHARGE
VS - ___ 0807 Temp: 97.3 BP: 111/73 L Sitting HR: 98 RR: 18
O2 sat: 98% O2 delivery: RA  
Gen - sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - 1+ nonpitting edema of legs unchanged from day prior; 
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3 (name, ___, ___, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 08:20AM BLOOD WBC-10.4* RBC-3.64* Hgb-11.2 Hct-35.8 
MCV-98 MCH-30.8 MCHC-31.3* RDW-19.8* RDWSD-72.4* Plt ___
___ 08:20AM BLOOD Glucose-99 UreaN-21* Creat-1.1 Na-136 
K-4.8 Cl-96 HCO3-22 AnGap-18
___ 08:20AM BLOOD ALT-159* AST-256* AlkPhos-212* 
TotBili-1.1 DirBili-1.2* IndBili-<0.1

WORKUP 
___ 08:02AM BLOOD TSH-24*
___ 08:02AM BLOOD Free T4-1.0
___ 08:02AM BLOOD Digoxin-0.7

DISCHARGE 
___ 07:19AM BLOOD WBC-8.2 RBC-3.72* Hgb-11.3 Hct-36.0 
MCV-97 MCH-30.4 MCHC-31.4* RDW-19.6* RDWSD-70.2* Plt ___
___ 07:35AM BLOOD Glucose-118* UreaN-21* Creat-1.5* Na-140 
K-4.2 Cl-99 HCO3-22 AnGap-19*
___ 08:02AM BLOOD ALT-80* AST-35 AlkPhos-209* TotBili-0.7

___ abd/pelvis w IV contrast
1. Increased amount of pneumobilia compared with 2 weeks ago.
Intra-,
extrahepatic biliary dilatation. Obstructing ___uct
distal
stone.
2. Heterogeneous enhancement of the liver parenchyma, a finding
that
is concerning for ascending cholangitis and/or
cholangiohepatitis.
3. Constipation. Simple renal cysts. Cardiomegaly and small
pericardial effusion.
4. Additional incidental findings as outlined above.

ERCP report: 
Successful ERCP, prior sphincterotomy, extraction of small 
amount
of sludge.  
 
Brief Hospital Course:
___ year old female with past medical history atrial 
fibrillation,
diastolic CHF, prior pulmonary embolism, likely previously
undiagnosed dementia, prior cholecystectomy for cholecystitis 
and
choledocholithiasis, admitted ___ with abdominal pain, 
leukocytosis and elevated LFTs concerning for cholangitis, 
status post ERCP with sludge extraction, course complicated by 
frequent pauses on telemetry, delirium, subsequently seen by 
___ Cardiology, started on modified rate control regimen, 
mental status returning to baseline as well, able to be 
discharged home with services 

# Biliary obstruction 
# Abnormal LFTs
Patient presented with nausea and abdominal pain and was found 
to have LFTs notable for ALT 159, AST 145, AP 247, Tbili 1.6, 
with imaging concerning for obstructing ___uct distal 
stone.  Patient underwent ERCP with extraction of sludge.  CBD 
stone was thought to have passed prior to ERCP.  Subsequently 
LFTs downtrended and her symptoms resolved.  Discharge LFTs were 
ALT 80, AST 35, Alk Phos 209, Tbili 0.7.  Would consider recheck 
at follow-up to ensure complete normalization. Post-procedural 
course complicated as below.  

# Acute metabolic encephalopathy
# Dementia with behavioral disturbance
Per patient's husband, over the last year she has grown more 
forgetful, and is often aware of the date, or may require help 
remembering to take her medications.  Following her ERCP, 
patient was confused and agitated.  At the time she was unable 
demonstrate understanding of her medical condition or the risks 
of leaving the hospital.  Her husband felt the patient was not 
her normal self, and did not feel safe taking her home, 
especially given ongoing medical issues below.  When he tried to 
leave without her, she slapped him across the face.  She 
subsequently calmed down, was able to be redirected.  She was 
felt to be delirious secondary to her above illness and her 
procedure.  Workup for additional causes was unrevealing.  Over 
the subsequent 48 hours her mental status returned to baseline.  
She was AOx3 and was able to discuss basic information about her 
health state.  Her husband assessed her and felt she was at her 
baseline and felt safe with bringing her home.  Given memory 
difficulties leading to possible medical adherence issues, 
arranged for ___ and discussed with husband regarding setting up 
a daily pill box for his wife.  

# Persistent atrial fibrillation
# Pauses on telemetry
Admission notable for identification of pauses on telemetry up 
to 4.6 seconds, occurring during the daytime, without associated 
symptoms.  ___ cardiology was consulted at the request of 
patient's PCP who recommended cessation of patient's atenolol 
and digoxin (given her CKD and advanced age).  After 24 hours, 
pauses had improved but patient rate control had worsened.  
Patient was started on metoprolol with telemetry monitoring x 24 
hours, with infrequent ~2 second pauses.  Cardiology recommended 
outpatient follow-up and that, if pauses or rate control became 
an issue in the future, patient should be considered for 
pacemaker placement.  Given her age and renal function, her 
apixaban was changed to the dose-reduced 2.5mg BID formulation.  


# Hypothyroidism
In the setting of confusion, patient had TSH checked which was 
found to be 24, with a normal fT4.  Per additional history from 
husband, unclear if patient has been taking medication 
correctly.  Multiple old bottles in addition the appropriate 
medication.  Continued levothyroxine at home dose with plan for 
repeat TSH check at upcoming follow-up visit to ensure it is 
imrpoving (and then again in ___ weeks once at steady state)

# Chronic diastolic CHF
# CKD stage 3 
Continued Lasix, spironolactone. Creatinine remained within 
previously documented normal range of 1.2-1.5. Discharge weight 
= 65.14kg

# Hypothyroidism
Continued Levothyroxine 

# Gout
Continued Allopurinol 

# GERD
Continued PPI 

Transitional issues
- Discharged home with services
- Last day antibiotics for cholangitis = ___
- As above, would recheck TSH at follow-up to ensure improving; 
would then repeat check in ___ weeks to assess steady state
- Given memory deficits and concerns about medication 
compliance, ___ will help patient and husband with a pill box;
- Given creatinine and age, dose-reduced apixaban to 2.5mg BID
- Discharge weight = 65.14kg
- Discharge LFTs, ALT 80, AST 35, Alk Phos 209, Tbili 0.7; would 
consider recheck at follow-up to ensure complete normalization; 

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO QAM 
3. Atenolol 100 mg PO QAM 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 
5. Spironolactone 25 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Digoxin 0.125 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Apixaban 5 mg PO BID 
10. Omeprazole 40 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
last day = ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
last day = ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*9 Tablet Refills:*0 
4.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
5.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
6.  Allopurinol ___ mg PO DAILY  
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  Furosemide 40 mg PO DAILY  
9.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN SOB  

10.  Levothyroxine Sodium 88 mcg PO QAM  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 40 mg PO DAILY  
13.  Spironolactone 25 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Biliary obstruction with Acute cholangitis
# Abnormal LFTs
# Acute metabolic encephalopathy
# Dementia with behavioral disturbance
# Hypothyroidism
# Persistent atrial fibrillation
# Pauses on telemetry
# Chronic diastolic CHF
# CKD stage 3 
# Hypothyroidism
# Gout
# GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and abnormal liver tests concerning for 
infection and blockage of your biliary duct.  You underwent a 
special endoscopy (ERCP) where they removed thick secretions 
that were blocking your biliary ducts.  

While you were in the hospital you were also noticed to have 
pauses of your heart that lasted up to 4 seconds.  You were seen 
by a team of cardiologists who recommended stopping your 
atenolol and digoxin, and starting metoprolol.

During your hospital stay, you became very confused.  We think 
this was a result of being sick.  You improved over several 
days. 

During your hospital stay we noticed that one of your thyroid 
hormones was abnormal.  We recommend continuing your 
levothyroxine (synthroid) and having your thyroid hormone (TSH) 
level rechecked at your upcoming primary care appointment. 

It will be important for you to finish your course of 
antibiotics--the last day is ___.
 
Followup Instructions:
___